US07700589B2
4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-[(R)-1-(3,4-diethyl-benzyl)-2-oxo-2-(3,4,5,6-tetrahydro-2H-4,4′-bipyridinyl-1-yl)-ethyl]-amide
Prepared analogously to Example 9i) from 400 mg (0.81 mmol) (R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid and 170 mg (1.04 mmol) 1,2,3,4,5,6-hexahydro-[4,4′]bipyridinyl.

reactant | (R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid | 0.81 mmol, 400 mg | C(C)C=1C=C(C=CC1CC)C[C@H](C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C28H36N4O4
reactant | 1,2,3,4,5,6-hexahydro-[4,4′]bipyridinyl | 1.04 mmol, 170 mg | N1CCC(CC1)C1=CC=NC=C1 | C10H14N2
product | 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-[(R)-1-(3,4-diethyl-benzyl)-2-oxo-2-(3,4,5,6-tetrahydro-2H-4,4′-bipyridinyl-1-yl)-ethyl]-amide | C(C)C=1C=C(C[C@H](C(N2CCC(CC2)C2=CC=NC=C2)=O)NC(=O)N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)C=CC1CC | C38H48N6O3
